US06727264B1
1-[4-(1H-INDOL-6-YL)PHENYL]ETHANONE:
Prepared by Procedure I and Scheme T using 6-bromo-1H-indole and 4-acetylphenylboronic acid: ESMS m/e: 235.8 (M+H)+.

reactant | 6-bromo-1H-indole | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 4-acetylphenylboronic acid | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
product | 1-[4-(1H-INDOL-6-YL)PHENYL]ETHANONE | N1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)C(C)=O | C16H13NO
